US07462735B2
4-[3-(2-hydroxybenzoylamino)benzoylamino]butanoic acid. (compound 3)
To a solution of 2.60 g (11.00 mmol) of methyl 4-(3-aminobenzoylamino)butanoate dissolved in 25 ml of ethyl acetate, very slowly add 1.40 g (10.00 mmol) of 2-hydroxybenzoyl chloride dissolved in 5 ml of ethyl acetate. Then add 1.00 g (10.00 mmol) of Et3N (triethylamine) and keep the reaction mixture at room temperature for 24 hours. Eliminate the solvent at low pressure, add 40 ml of 10% NaOH to the crude product and continue stirring the mixture until the oil has completely disappeared. Immediately acidify with concentrated HCl, filter the resulting solid and wash several times with water. Purify the reaction product by recrystallization (EtOH/H2O). This yields 1.60 g (48%) of 4-[3-(2-hydroxybenzoylamino) benzoylamino]butanoic acid as a white solid.

reactant | methyl 4-(3-aminobenzoylamino)butanoate | 11.00 mmol, 2.60 g | NC=1C=C(C(=O)NCCCC(=O)OC)C=CC1 | C12H16N2O3
reactant | 2-hydroxybenzoyl chloride | 10.00 mmol, 1.40 g | OC1=C(C(=O)Cl)C=CC=C1 | C7H5ClO2
reactant | Et3N | 10.00 mmol, 1.00 g | CCN(CC)CC | C6H15N
reactant | NaOH | 40 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-[3-(2-hydroxybenzoylamino)benzoylamino]butanoic acid | OC1=C(C(=O)NC=2C=C(C(=O)NCCCC(=O)O)C=CC2)C=CC=C1 | C18H18N2O5
